US07897631B2
tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate (0.095 g, 0.344 mmol) was reacted with N-(2-azidoethyl)-2-naphthamide (0.083 g, 0.344 mmol) following the general click procedure to give tert-butyl 4-(5-(1-(2-(2-naphthamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-2-amino-1H-imidazole-1-carboxylate 1H NMR (300 MHz, CDCl3) δ 8.24 (s, 1H), δ 8.01 (s, 1H), δ 7.72 (m, 4H), δ 7.39 (m, 2H), δ 7.26 (s, 1H), δ 6.33 (s, 1H), δ 6.04 (s, 2H), δ 4.51 (s, 2H), δ 3.88 (s, 2H0, δ 2.48 (t, 2H), δ 2.12 (s, 2H), δ 1.47 (m, 13H), δ 1.17 (s, 2H) ppm; 13C NMR (75 MHz, CDCl3) δ 168.5, 150.4, 149.5, 148.3, 138.6, 134.9, 132.7, 131.4, 129.2, 128.5, 128.1, 127.9, 126.8, 124.0, 122.3, 106.5, 84.9, 49.4, 40.4, 29.9, 29.2, 28.9, 28.6, 28.2, 27.9, 28.6, 27.9, 27.8, 25.6 ppm; HRMS (ESI) calcd for C28H35N7O3 (M+) 517.2801. found 517.2792, which was subsequently deprotected to give N-(2-(4-(5-(2-amino-1H-imidazol-4-yl)pentyl)-1H-1,2,3-triazol-1-yl)ethyl)-2-naphthamide hydrochloride (0.140 g, 90% yield). 1H NMR (300 MHz, CD3OD) δ ppm; 13C NMR (75 MHz, CD3OD) δ ppm; HRMS (ESI) calcd for C23H27N7O (M+) 417.2277. found 417.2274.

reactant | tert-butyl 2-amino-4-(hept-6-ynyl)-1H-imidazole-1-carboxylate | 0.344 mmol, 0.095 g | NC=1N(C=C(N1)CCCCCC#C)C(=O)OC(C)(C)C | C15H23N3O2
reactant | N-(2-azidoethyl)-2-naphthamide | 0.344 mmol, 0.083 g | N(=[N+]=[N-])CCNC(=O)C1=CC2=CC=CC=C2C=C1 | C13H12N4O
product | tert-butyl 4-(5-(1-(2-(2-naphthamido)ethyl)-1H-1,2,3-triazol-4-yl)pentyl)-2-amino-1H-imidazole-1-carboxylate | C1=C(C=CC2=CC=CC=C12)C(=O)NCCN1N=NC(=C1)CCCCCC=1N=C(N(C1)C(=O)OC(C)(C)C)N | C28H35N7O3
